US08283353B2
ethyl [(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-3-fluoro-5-oxo-7-propylpyrazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]acetate
To a solution of 4′-{[4-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-3-fluoro-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (0.24 g) in tetrahydrofuran (2 mL) was added tetrabutylammonium fluoride (1 mL), and the mixture was stirred at 70° C. for 2 hr. Ethyl acetate and saturated aqueous ammonium chloride solution were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and then with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was dissolved in toluene (2 mL), rhodium acetate (dimer, 0.016 g) was added, ethyl diazoacetate (0.19 mL) was added dropwise at 100° C., and the mixture was stirred for 3 hr. Ethyl acetate and water were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and then with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography to give the title compound as a pale-yellow amorphous solid (0.087 g, 42%).

reactant | 4′-{[4-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-3-fluoro-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.24 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CC2F | C35H43FN4O2Si
reactant | tetrabutylammonium fluoride | 1 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | ethyl [(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-3-fluoro-5-oxo-7-propylpyrazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]acetate | 0.087 g, 42% | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CC2F)[C@@H]2CC[C@H](CC2)OCC(=O)OCC)=O | C33H35FN4O4
